US07601870B2
(2,6-Dimethyl-phenyl)-carbamic acid propyl ester
2,6-Dimethyl-aniline (3.0 mL) and propyl chloroformate (4.1 mL) were dissolved in acetonitrile (15 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. The reaction mixture was concentrated in vacuo to furnish 4.79 g (95% yield) of the title compound as a brown solid. The crude product was used without further purification.

reactant | 2,6-Dimethyl-aniline | 3.0 mL | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | propyl chloroformate | 4.1 mL | ClC(=O)OCCC | C4H7ClO2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (2,6-Dimethyl-phenyl)-carbamic acid propyl ester | 4.79 g, 95% yield | C(CC)OC(NC1=C(C=CC=C1C)C)=O | C12H17NO2
